US04959366
4-(2-Chloroethoxy)benzamide
A mixture of 4-hydroxybenzamide (194 g, 1.25M), 2-(benzenesulphonyloxy)ethyl chloride (359 g, 1.8M), and potassium carbonate (172.8 g, 1.25M) in butan-2-one (2.16 1) was stirred at reflux for 24 hours. After cooling, distilled water (2.0 1) was added and the resultant precipitate filtered off, washed with water, and dried. Crystallisation from ethanol gave the title compound, yield (232.0 g), m.p. 66°.

reactant | 4-hydroxybenzamide | 1.25M, 194 g | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | 2-(benzenesulphonyloxy)ethyl chloride | 1.8M, 359 g | C1(=CC=CC=C1)S(=O)(=O)OCCCl | C8H9ClO3S
reactant | potassium carbonate | 1.25M, 172.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | butan-2-one | CC(CC)=O | C4H8O
product | 4-(2-Chloroethoxy)benzamide | ClCCOC1=CC=C(C(=O)N)C=C1 | C9H10ClNO2
